US05948775
3-[4-(2-Chloro-ethoxy)-phenyl]-7-methoxy-2-(4-methoxy-phenyl)-2,3,-dihydro-1H-quinazolin-4-one
To a solution of 14.9 g (0.0465 mol) of 2-amino-N-[4-(2-chloro-ethoxy)-phenyl]-4-methoxy-benzamide in 300 mL of ethanol was added 5.6 mL (0.0465 mol) of p-anisaldehyde and 30 mL of acetic acid. The reaction mixture was stirred and heated under a mild reflux overnight. After cooling to room temperature, the solvent was evaporated in a rotary evaporator. After the addition of diethyl ether and petroleum ether, the oily residue was chilled on ice. The precipitate that formed was collected by vacuum filtration. An analytical sample (mp 157-158° C. was obtained by recrystallization from ethanol.

reactant | 2-amino-N-[4-(2-chloro-ethoxy)-phenyl]-4-methoxy-benzamide | 0.0465 mol, 14.9 g | NC1=C(C(=O)NC2=CC=C(C=C2)OCCCl)C=CC(=C1)OC | C16H17ClN2O3
reactant | p-anisaldehyde | 0.0465 mol, 5.6 mL | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 3-[4-(2-Chloro-ethoxy)-phenyl]-7-methoxy-2-(4-methoxy-phenyl)-2,3,-dihydro-1H-quinazolin-4-one | ClCCOC1=CC=C(C=C1)N1C(NC2=CC(=CC=C2C1=O)OC)C1=CC=C(C=C1)OC | C24H23ClN2O4
